US05043341
A. Preparation of trans-N-(2-hydroxycyclopentyl)acetamide
A solution of 30.3 g of trans-2-aminocyclopentanol in 900 ml of tetrahydrofuran under a nitrogen atmosphere was cooled by means of an external ice bath to approximately 10° C. Forty-five milliliters of triethylamine were added followed by the dropwise addition of a solution of 21.3 ml of acetyl chloride in 240 ml of tetrahydrofuran. The resulting mixture was stirred overnight at room temperature. The resulting precipitate was removed by filtration and the filtrate was concentrated in vacuo to provide 43.59 g of the title intermediate as a red oil.

reactant | trans-2-aminocyclopentanol | 30.3 g | N[C@H]1[C@@H](CCC1)O | C5H11NO
reactant | triethylamine | Forty-five milliliters | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 21.3 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | trans-N-(2-hydroxycyclopentyl)acetamide | 43.59 g | O[C@H]1[C@@H](CCC1)NC(C)=O | C7H13NO2
